### PR TITLE
feat(Space): Euclidean Group API

### LINKED ISSUE #940: API: Euclidean group
## Key data structure

The isometry group of Euclidean space, this is the Euclidean group.

- [ ] is defined.

## Need

This is needed for symmetries of Euclidean space, it contains rotations, reflections and translations. 

## Requirements

- [ ] The API shall contain the inclusion of the special Euclidean group. 
- [ ] The API shall contain the inclusion of translations. 
- [ ] The API shall contain the inclusion of rotations about each spatial point. 
- [ ] The API shall contain a specification of a group element from a translation and rotation. 
- [ ] The API shall contain the inclusion of the Euclidean group into the Affine group. 

## Corresponding file system

There is no corresponding part of PhysLean for this API yet.

## References 

There is some coverage of this in: 

- https://github.com/mrdouglasny/OSforGFF/tree/main

See the discussion here about the definition of the Euclidean Space: 

- https://leanprover.zulipchat.com/#narrow/channel/479953-PhysLean/topic/Space.20vs.20EuclideanSpace/with/575936453

### PR DESCRIPTION
**Pull request by LibertasSpZ**
Closes #940 

Note: the PR was prepared with some AI assistance. I wrote a large part of the code, and reviewed and understand the content.

### CODE REVIEW

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,487 @@
+/-
+Copyright (c) 2025 Joseph Tooby-Smith. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joseph Tooby-Smith
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Should be your name here, not mine :).

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,487 @@
...
+rotations, reflections, and translations.
+-/
+@[ext]
+structure EuclideanGroup (n : ℕ) where
+  translation : EuclideanSpace ℝ (Fin n)
+  linear : Matrix.orthogonalGroup (Fin n) ℝ
+
+/-- Action of an orthogonal-group element on a Euclidean vector,
+bridged through `WithLp`. -/
+private def act {n : ℕ} (Q : Matrix.orthogonalGroup (Fin n) ℝ)
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: I don't think this is the best name for this. Maybe also specify in the doc-string why this is needed.

Comment (jstoobysmith) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: You could like define this as a `DistribMulAction` or similar instead of having all of the lemmas below

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,487 @@
...
+    OneMemClass.coe_one, Matrix.det_one]
+
+private lemma coe_inv {n : ℕ} (Q : Matrix.orthogonalGroup (Fin n) ℝ) :
+    (Q⁻¹).val = (Q.val)⁻¹ := by
+  symm
+  apply Matrix.inv_eq_right_inv
+  rw [← Submonoid.coe_mul, mul_inv_cancel, OneMemClass.coe_one]
+
+/-- Special Euclidean Group is the subgroup with det(Q) = 1 where Q ∈ O(n) -/
+def specialEuclideanGroup (n : ℕ) : Subgroup (EuclideanGroup n) where
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: I'm never sure about this, but I would give this a capital, i.e. `SpecialEuclideanGroup` - because it acts like a type.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,487 @@
...
+  inv_mem' {a} ha := by
+    show (a.linear⁻¹).val.det = 1
+    rw [det_coe_inv, ha, inv_one]
+
+/-- The inclusion of the special Euclidean group into the Euclidean group. -/
+noncomputable def specialEuclideanGroup.incl (n : ℕ) :
+    specialEuclideanGroup n →* EuclideanGroup n := (specialEuclideanGroup n).subtype
+
+/-- Translation is the subgroup with Q = 1. -/
+def translationGroup (n : ℕ) : Subgroup (EuclideanGroup n) where
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Same here

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,487 @@
...
+/-- API feature: SO(n) ≃* RotationGroup n -/
+noncomputable def specialOrthogonalEquiv :
+    Matrix.specialOrthogonalGroup (Fin n) ℝ ≃* RotationGroup n :=
+    MonoidHom.toMulEquiv (specialOrthogonal.toRotation n) (specialOrthogonal.fromRotation n)
+    (specialOrthogonal_forward_identity) (specialOrthogonal_backward_identity)
+
+/-- An n-dimensional `Affine group` is the group of invertible affine transformations:
+translations composed with general linear maps. -/
+@[ext]
+structure AffineGroup (n : ℕ) where
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Maybe make its own file, also check it is not already defined in Mathlib?

File: Physlib/SpaceAndTime/Space/EuclideanGroup.lean
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup.lean:1]: Delete this for now.

**Comment by LibertasSpZ** [comment]
@jstoobysmith Thanks a lot for your thorough review! Will update soon (hopefully by this weekend) if that works.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean (hunk 1 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Thanks for the note. Updated.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean (hunk 2 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Thank you. Removed the definition `act` and using `\smul` now.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean (hunk 3 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Updated this one and a few similar type-like definitions

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean (hunk 4 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Updated likewise.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean (hunk 5 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Done. Also proved the isomorphism between AffineGroup and AffineEquiv.

File: Physlib/SpaceAndTime/Space/EuclideanGroup.lean
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup.lean:1]: Done.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean [hunk 6]
```diff
@@ -0,0 +1,207 @@
...
+    apply AffineEquiv.ext; intro p
+    simp only [AffineEquiv.coe_mul, Function.comp_apply,
+      AffineEquiv.constVAdd_apply, LinearEquiv.coe_toAffineEquiv, vadd_eq_add,
+      GLToLinEquiv, DistribMulAction.toLinearEquiv_apply]
+    show x.translation + x.linear • y.translation + (x.linear * y.linear) • p =
+      x.translation + x.linear • (y.translation + y.linear • p)
+    simp [add_assoc, mul_smul]
+
+/-- The inclusion of the Euclidean group into Mathlib's affine automorphism group. -/
+noncomputable def Euclidean.toAffineEquiv :
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: I think this might be all which is needed here. I'm not sure I see the point in defining `AffineGroup` when `AffineEquiv` exists also.

Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: My motivation for defining `AffineGroup` was to expose the semidirect-product structure explicitly, which may be useful for downstream API (e.g. extracting the `translation` and `linear` components separately for the affine groups). 

That said, `AffineEquiv` already carries the affine automorphism structure, so I'm happy to remove `AffineGroup` and keep only `Euclidean.toAffineEquiv` if that's the preference. 

Please let me know how to proceed. Thanks!

Comment (jstoobysmith) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: Cann we just keep `Euclidean.toAffineEquiv` for now, and then if we need more later, we can add it.

Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: Thanks! Done — I removed the bespoke AffineGroup (and its `GL`-based bridges). This file now has `Euclidean.toAffineEquiv` as the main result, a one-directional `EuclideanGroup n →* AffineEquiv`, built as the composite `EuclideanGroup →* AffineIsometryEquiv →* AffineEquiv`.

I also left one optional side result at the end, `Euclidean.toAffineIsometryEquiv` — that `EuclideanGroup n` is isomorphic to the full affine isometry group, packaged as a `MulEquiv`. It lives in its own self-contained section; I included it since the proof was already in hand and may be handy later. Happy to drop if you prefer.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,366 @@
...
+    EuclideanGroup n := ⟨0, specialOrthogonal.incl n Q⟩
+
+/-- Specialization to a group element from a rotation and a translation. -/
+def EuclideanGroup.ofRotationTranslation (Q : Matrix.specialOrthogonalGroup (Fin n) ℝ)
+    (t : EuclideanSpace ℝ (Fin n)) : EuclideanGroup n :=
+  ⟨t, specialOrthogonal.incl n Q⟩
+
+/-- The specialization projects back to the translation component. -/
+@[simp]
+lemma ofRotationTranslation.toTranslation (Q : Matrix.specialOrthogonalGroup (Fin n) ℝ)
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: I would put lemmas like this in the `EuclideanGroup` namespace, and call them e.g. `ofRotationTranslation_translation`.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,366 @@
...
+/-- An n-dimensional `Euclidean group` is a group of
+rotations, reflections, and translations.
+-/
+@[ext]
+structure EuclideanGroup (n : ℕ) where
+  /-- The translation part of a Euclidean transformation. -/
+  translation : EuclideanSpace ℝ (Fin n)
+  /-- The orthogonal linear part of a Euclidean transformation. -/
+  linear : Matrix.orthogonalGroup (Fin n) ℝ
+
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean:31]: I would put everything below here in the `EuclideanGroup` namespace.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean [hunk 9]
```diff
@@ -0,0 +1,207 @@
...
+  map_one' := by
+    apply AffineIsometryEquiv.ext
+    intro x; simp
+  map_mul' A B := by
+    apply AffineIsometryEquiv.ext
+    intro x
+    simp [mul_smul, add_assoc]
+
+/-- Unfolds `Euclidean.toAffineIsometryHom` into its translation and linear factors. -/
+@[simp] lemma Euclidean.toAffineIsometryHom_apply (A : EuclideanGroup n) :
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: These namespaces should be `EuclideanGroup`

File: Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean [hunk 10]
```diff
@@ -0,0 +1,207 @@
...
+
+These expose the semidirect-product formulas behind the `Group` instance so that `simp` can
+reduce the translation/linear components of `1` and `A * B`. -/
+
+@[simp] lemma EuclideanGroup.one_translation : (1 : EuclideanGroup n).translation = 0 := rfl
+@[simp] lemma EuclideanGroup.one_linear : (1 : EuclideanGroup n).linear = 1 := rfl
+@[simp] lemma EuclideanGroup.mul_translation (A B : EuclideanGroup n) :
+    (A * B).translation = A.translation + A.linear • B.translation := rfl
+@[simp] lemma EuclideanGroup.mul_linear (A B : EuclideanGroup n) :
+    (A * B).linear = A.linear * B.linear := rfl
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: Should be in the other file.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean [hunk 11]
```diff
@@ -0,0 +1,207 @@
...
+
+/-- The forward functor `⟨t, Q⟩ ↦ (x ↦ Q x + t)`, bundled as a monoid homomorphism from the
+Euclidean group into the affine isometry group of `EuclideanSpace ℝ (Fin n)`. -/
+noncomputable def Euclidean.toAffineIsometryHom :
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: I find the layout of this file a bit confusing. Is it possible to structure it so it is obvious what goes into e.g. `toAffineIsometryEquiv`.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean (hunk 7 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean]: Done — now `EuclideanGroup.ofRotationTranslation_translation`, `*_linear`, `*_decompose`.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean (hunk 8 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/Basic.lean:31]: Done.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean (hunk 9 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: Done — `Euclidean.* → EuclideanGroup.*` throughout. (`AffineIsometryEquiv.toAffineEquivHom` stays in `AffineIsometryEquiv` since it's a statement about that type.)

File: Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean (hunk 10 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: Done — moved to `Basic.lean`, directly after the Group instance.

File: Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean (hunk 11 above)
Comment (LibertasSpZ) [reply Physlib/SpaceAndTime/Space/EuclideanGroup/AffineGroup.lean]: Restructured. 

- Part 1 is the inclusion from Issue #940 as a labeled chain: `orthogonalToLinearIsometryEquiv` (linear ingredient of first leg) → `toAffineIsometryHom` (first leg) → `AffineIsometryEquiv.toAffineEquivHom` (second leg) → `toAffineEquiv`. 
- Part 2 upgrades the first leg to the isom, now named `toAffineIsometryMulEquiv` (so the `Hom`/`MulEquiv` suffixes name the bundling, not the target type), and each helper's doc-string says which `MulEquiv` field it supplies (`invFun` / `left_inv` / `right_inv`). 
- Happy to reorganize further if this isn't what you had in mind.

Thanks!

**Review by jstoobysmith — APPROVED** [review]
Approved - this now looks good to me. Many thanks for this PR 🎉

**Comment by LibertasSpZ** [comment]
Many thanks as well!
